US09326515B2
To a solution of (2Z)-2-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide (5.00 g, 16.37 mmol, 1 eq.) and triethylamine (2.28 ml, 16.37 mmol, 1 eq) in DMF (100 ml) at 0° C., was added dropwise 4-fluorophenyl chloroformate (28.58 g, 16.37 mmol, 1 eq.). After stirring at 0° C. for 1 hour, the reaction was quenched by addition of water (50 ml) and extracted with EtOAc (2×150 ml). The organics were combined, dried over MgSO4 and concentrated. The residue was purified by chromatography on silica gel to give 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one (5.65 g, 96% yield).

reactant | (2Z)-2-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}-N-hydroxy-N-methyl-2-phenylethanimidamide | 16.37 mmol, 5.00 g, 1 eq. | NC=1SC=C(N1)CO\N=C(/C(N(C)O)=N)\C1=CC=CC=C1 | C13H15N5O2S
reactant | triethylamine | 16.37 mmol, 2.28 ml, 1 eq | C(C)N(CC)CC | C6H15N
reactant | 4-fluorophenyl chloroformate | 16.37 mmol, 28.58 g, 1 eq. | ClC(=O)OC1=CC=C(C=C1)F | C7H4ClFO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-[(Z)-{[(2-amino-1,3-thiazol-4-yl)methoxy]imino}(phenyl)methyl]-2-methyl-1,2,4-oxadiazol-5(2H)-one | 5.65 g, 96% yield | NC=1SC=C(N1)CO\N=C(/C=1N(OC(N1)=O)C)\C1=CC=CC=C1 | C14H13N5O3S
